**.subckt tb_test_evaluated_param
x1 A Z2 test_evaluated_param2
V1 A GND pwl 0 0 10n 0 11n 3
x2 A Z1 test_evaluated_param1
**** begin user architecture code


.options savecurrents
** following .param is set with a TCL command
.param VCC=3
.control
  save all
  tran 10p 50n
  write tb_test_evaluated_param.raw
.endc


**** end user architecture code
**.ends

* expanding   symbol:  test_evaluated_param2.sym # of pins=2
.subckt test_evaluated_param2 A Z
*.iopin Z
*.iopin A
R1 Z A 12500
C1 Z GND 5e-13
**** begin user architecture code


.param DEL=5
** do something with DEL


**** end user architecture code
.ends


* expanding   symbol:  test_evaluated_param1.sym # of pins=2
.subckt test_evaluated_param1 A Z
*.iopin Z
*.iopin A
R1 Z A 5000
C1 Z GND 2e-13
**** begin user architecture code


.param DEL=2
** do something with DEL


**** end user architecture code
.ends

.GLOBAL GND
.end
